US05021524
A. [(1-Ethoxy-2-carboethoxy-1-propenyl)oxy]-trimethylsilane (ECPS)
To a dispersion of 3.1 g of NaH in 20 mL of tetrahydrofuran (THF) at room temperature was added 20 mL of diethylmethylmalonate, at an addition rate of 0.5 mL/minute. The mixture was kept below 30° by the use of a water/ice bath. After complete addition of the diethylmethylmalonate, the mixture was stirred for 30 minutes, then cooled to 0° and 13.5 mL of chlorotrimethylsilane was added. After 40 minutes, 10 mL of hexane was added and the mixture was stirred overnight, filtered under argon, and distilled A forerun (40°-58°, 0.32 mm) was discarded, the product distilling at 62°-64°, 0.40 mm. NMR. (CD3CN, TMS) indicates that the product is a 75/25 mixture of E/Z isomers of ECPS; major isomer: 0.303 (s, 9H, SiMe3); 1.255 (t, J=b 7 Hz, 6H, OCH2CH3); 1.754 (s, 3H, vinyl CH3); 3.988-4.250 (m, all OCH2 for both isomers. Minor isomer: 0.308 (s, 9H, SiMe3); 1.264 (t, J=7H, 6H, OCH2CH3); 1.727 (s, 3H, vinyl CH3 1.754); 3.988-4.250 (m, all OCH2 for both isomers). Anal. calc. for C11H22SiO4 : C 53.67; H 8.94. Found C 53.33; H 8.76.

reactant | NaH | 3.1 g | [H-].[Na+]
reactant | diethylmethylmalonate | 20 mL | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | chlorotrimethylsilane | 13.5 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | hexane | 10 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [(1-Ethoxy-2-carboethoxy-1-propenyl)oxy]-trimethylsilane | C(C)OC(=C(C)C(=O)OCC)O[Si](C)(C)C | C11H22O4Si
